US05272171
(3R, 4S)-1-Benzoyl-4-phenyl-3-triethylsilyloxy-2-azetidinone (ILb)
To a stirred solution of (3R, 4S)-4-phenyl-3-triethylsilyloxy-2-azetidinone (LXXII) (1.000 g, 3.601 mmol) in dry CH2Cl2 (25 mL) was added N,N-diisopropylethylamine (0.689 mL, 3.961 mmol, 1.1 equiv) at 0° C. under an argon atmosphere. The solution was stirred for 5 min followed by the addition of benzoyl chloride (0.459 mL, 3.961 mmol, 1.1 equiv) and 4-dimethylaminopyridine (96.5 mg, 0.790 mmol, 0.20 equiv). The reaction mixture was stirred at room temperature for 1 h, then it was diluted with ethyl acetate (25 mL). The resulting solution was washed with brine, 10% NaHCO3, 10% HCl solution, dried (MgSO4), and concentrated to give a crude compound as an oil. The compound was further purified by silica gel flash chromatography (being eluted with 15% ethyl acetate in hexanes) which afforded 1.04 g (Y: 80%) of 8.07-8.00 (m, 2H) 7.59-7.45 (m, 3H) 7.37-7.31 (m, 5H) 5.41 (d, J=6.1 Hz, 1H) 0.83-0.77 (m, 9H) 0.54-0.42 (m, 6H).

reactant | (3R, 4S)-4-phenyl-3-triethylsilyloxy-2-azetidinone | 3.601 mmol, 1.000 g | C1(=CC=CC=C1)[C@H]1[C@H](C(N1)=O)O[Si](CC)(CC)CC | C15H23NO2Si
reactant | N,N-diisopropylethylamine | 3.961 mmol, 0.689 mL, 1.1 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzoyl chloride | 3.961 mmol, 0.459 mL, 1.1 equiv | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.790 mmol, 96.5 mg, 0.20 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (3R, 4S)-1-Benzoyl-4-phenyl-3-triethylsilyloxy-2-azetidinone | C(C1=CC=CC=C1)(=O)N1C([C@@H]([C@@H]1C1=CC=CC=C1)O[Si](CC)(CC)CC)=O | C22H27NO3Si
